US04857656
Synthesis of ε-tert-butyloxycarbonyllysine
A pH electrode was put in a solution of 14.8 g of lysine was dissolved in 100 ml of water, and 55 g (1.5 mol equivalent against lysine) of 4-tert-butyloxycarbonyloxyphenyldimethylsulfonium methylsulfate was added thereto under stirring at 20° C. The reaction was carried out at pH 8.0 according to the method of Working Example 10 to afford 17.7 g (72% of the theoretical value) of the desired product.

reactant | lysine | 14.8 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | 4-tert-butyloxycarbonyloxyphenyldimethylsulfonium methylsulfate | 1.5 mol, 55 g | COS(=O)(=O)[O-].C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)[S+](C)C
reactant | water | 100 ml | O | H2O
product | ε-tert-butyloxycarbonyllysine | C(C)(C)(C)OC(=O)C(CCC[C@H](N)C(=O)O)N | C11H22N2O4
